US05436359
2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-4-(N-methyl-1,4-dihydropyridin-3-ylcarbonyloxy)phenol
2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-4-nicotinoyloxyphenol (1.1 g) was dissolved in dimethylformamide (5 ml). Iodomethane (0.3 ml) was added, and the mixture was allowed to react at room temperature for 16 hours. After concentration under reduced pressure, the residue was dissolved in ethyl acetate (20 ml). Water (20 ml) containing sodium hydrosulfite (1.74 g) and sodium bicarbonate (1.26 g) was added, and the mixture was stirred at room temperature for 1 hour. The organic layer was concentrated under reduced pressure, and the residue was subjected to column chromatography on silica gel and eluted with ethyl acetate to obtain the desired compound (1.1 g) as an oil.

reactant | 2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-4-nicotinoyloxyphenol | 1.1 g | COC1=C(C(=C(C(=C1OC)OC(C1=CN=CC=C1)=O)C)CCCCCCCCCCO)O | C25H35NO6
reactant | Iodomethane | 0.3 ml | IC | CH3I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2,3-Dimethoxy-6-(10-hydroxydecyl)-5-methyl-4-(N-methyl-1,4-dihydropyridin-3-ylcarbonyloxy)phenol | 1.1 g | COC1=C(C(=C(C(=C1OC)OC(=O)C1=CN(C=CC1)C)C)CCCCCCCCCCO)O | C26H39NO6
